US08563575B2
A mixture of 3-[4-(benzyloxy)phenyl]-1-propyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (1.5 g) and 10% Pd—C (0.444 g) in EtOH (40 ml) was hydrogenated under balloon pressure at room temperature for 3 h. The catalyst was removed by filtration and the filtrate was concentrated in vacuo to give 3-(4-hydroxyphenyl)-1-propyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (1.05 g) as a light brown solid.

reactant | 3-[4-(benzyloxy)phenyl]-1-propyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 1.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(N(C=2C1=NC=CC2)CCC)=O | C22H21N3O2
solvent | EtOH | 40 ml | CCO | C2H6O
catalyst | Pd—C | 0.444 g | [Pd] | Pd
product | 3-(4-hydroxyphenyl)-1-propyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 1.05 g | OC1=CC=C(C=C1)N1C(N(C=2C1=NC=CC2)CCC)=O | C15H15N3O2
